US04230878
Preparation of tetrahydropyranyl 4-(4-tetradecenylamino)benzoate
A mixture of 7 g. 4-(4-tetradecenylamino)benzoic acid, 2 g. dihydropyran and 100 mg. of anhydrous p-toluenesulfonic acid in 50 ml. toluene is stirred at room temperature for 20 hours. The solution is washed with saturated sodium bicarbonate, dried, and evaporated. The residue is collected and crystallized from methylcyclohexane to yield the product as white crystals.

reactant | 4-(4-tetradecenylamino)benzoic acid | C(CCC=CCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C21H33NO2
reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tetrahydropyranyl 4-(4-tetradecenylamino)benzoate | C(CCC=CCCCCCCCCC)NC1=CC=C(C(=O)OC2OCCCC2)C=C1 | C26H41NO3
